US05977027
Preparation of N-(2.5-dichlorophenyl)-2-(1-ethyl-5-phenylimidazolidin-4-on-3-yl)isobutyramide (Compound No. C-1)
To a solution of N-(2,5-dichlorophenyl)-2-(α-ethylaminophenylacetylamino)isobutyramide (0.9 g) in ethanol (15 mL) were added potassium carbonate (0.5 g) and paraformaldehyde (0.5 g), and the mixture was heated at reflux for 4 hours. After the reaction solution was added to water, the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the resulting crude product was purified by thin-layer chromatography (silica gel, diethyl ether/n-hexane=1/1) to give 0.4 g of the title compound.

reactant | N-(2,5-dichlorophenyl)-2-(α-ethylaminophenylacetylamino)isobutyramide | 0.9 g | ClC1=C(C=C(C=C1)Cl)NC(C(C)(C)NC(C(NCC)C1=CC=CC=C1)=O)=O | C20H23Cl2N3O2
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | paraformaldehyde | 0.5 g | C=O | CH2O
reactant | water | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-(2.5-dichlorophenyl)-2-(1-ethyl-5-phenylimidazolidin-4-on-3-yl)isobutyramide | 0.4 g | ClC1=C(C=C(C=C1)Cl)NC(C(C)(C)N1CN(C(C1=O)C1=CC=CC=C1)CC)=O | C21H23Cl2N3O2
